US08217064B2
A mixture of ethyl 1-(4-amino-3-bromo-5-(cyclopropylmethoxy)phenyl)cyclobutanecarboxylate (0.32 g, 0.86 mmol), 4-trifluoromethylphenylboronic acid (0.246 g, 1.3 mmol), CsF (0.262 g, 1.7 mmol) and Pd (PPh3)4 (0.1 g, 0.08 mmol) in 10 mL anhydrous 1,2-dimethoxy ethane was refluxed for 8 h under argon. The reaction mixture was cooled to RT and 25 mL of EtOAc and 75 mL of water were added. The organic phase was separated, dried over Na2SO4, filtered and concentrated under reduced pressure to give a yellow oil. The oil was purified by chromatography over silica gel (hexane/EtOAc) to give ethyl 1-(6-amino-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylate (0.290 g) as a yellow oil.

reactant | ethyl 1-(4-amino-3-bromo-5-(cyclopropylmethoxy)phenyl)cyclobutanecarboxylate | 0.86 mmol, 0.32 g | NC1=C(C=C(C=C1OCC1CC1)C1(CCC1)C(=O)OCC)Br | C17H22BrNO3
reactant | 4-trifluoromethylphenylboronic acid | 1.3 mmol, 0.246 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | CsF | 1.7 mmol, 0.262 g | [F-].[Cs+]
reactant | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | 1,2-dimethoxy ethane | 10 mL | COCCOC | C4H10O2
catalyst | Pd (PPh3)4 | 0.08 mmol, 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 75 mL | O | H2O
product | ethyl 1-(6-amino-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylate | 0.290 g | NC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCC1)C(=O)OCC)OCC1CC1 | C24H26F3NO3
